US08476474B2
Preparation of (E)-2-bromo-6-(4-bromostyryl)naphthalene
6-bromo-2-naphthaldehyde (4.0 g, 17.1 mmol) and diethyl-4-bromobenzylphosphonate (6.3 g, 20.5 mmol) were dissolved in purified dimethylsulfoxide (100 mL) under a nitrogen atmosphere, the reaction solution was cooled down to 0° C., and then potassium t-butoxide (2.5 g, 20.5 mmol) was slowly added thereto. The reaction mixture solution was stirred at room temperature for 12 hours. The reaction mixture solution was subjected to extraction with water and dichloromethane to thereby remove the solvent. The extracted material was sufficiently washed with methanol, and was dried in vacuum to thereby obtain a white solid (6.0 g, yield: 91%).

reactant | 6-bromo-2-naphthaldehyde | 17.1 mmol, 4.0 g | BrC=1C=C2C=CC(=CC2=CC1)C=O | C11H7BrO
reactant | diethyl-4-bromobenzylphosphonate | 20.5 mmol, 6.3 g | C(C)C(C1=CC=C(C=C1)Br)(P([O-])([O-])=O)CC
reactant | potassium t-butoxide | 20.5 mmol, 2.5 g | CC(C)([O-])C.[K+]
solvent | dimethylsulfoxide | 100 mL | CS(=O)C | C2H6OS
product | (E)-2-bromo-6-(4-bromostyryl)naphthalene | 6.0 g, yield: 91% | BrC1=CC2=CC=C(C=C2C=C1)\C=C\C1=CC=C(C=C1)Br | C18H12Br2
